US06949542B2
[2-(3-[2,3′]Bipyridinyl-4-yl-3-oxo-propionylamino)-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J8) (240 mg, 0.75 mmol) and 3-[2,3′]bipyridinyl-4-yl-3-oxo-propionic acid tert-butyl ester (Example K57) (224 mg, 0.75 mmol) according to the general procedure M. Obtained as a yellow foam (319 mg, 78%).

reactant | (2-amino-5-ethoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 240 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-[2,3′]bipyridinyl-4-yl-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 224 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C=1C=NC=CC1)=O | C17H18N2O3
product | [2-(3-[2,3′]Bipyridinyl-4-yl-3-oxo-propionylamino)-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C=1C=NC=CC1)=O)=O | C27H27F3N4O5
